US07405237B2
5.3.1 3-[(Furan-2-ylmethyl)-amino]-phthalic acid dimethyl ester
To a stired solution of 3-amino-phthalic acid dimethyl ester (8.23 g, 39.32 mmol) in methylene chloride (200 ml) under a nitrogen atmosphere, 2-furaldehyde (8.14 ml, 98.30 mmol) and acetic acid (13.57 ml, 235.92 mmol) were added. The mixture was stirred for 5 minutes, followed by addition of sodium triacetoxyborohydride (25 g, 117.96 mmol). The reaction was sitirred overnight, washed with water (2×200 ml), saturated aqueous sodium bicarbonate (2×200 ml), and brine (200 ml), and dried over MgSO4. The solvent was evaporated in vacuo to give a brown oil (12.42 g), which was used directly without purification.

reactant | 3-amino-phthalic acid dimethyl ester | 39.32 mmol, 8.23 g | COC(C=1C(C(=O)OC)=C(C=CC1)N)=O | C10H11NO4
reactant | 2-furaldehyde | 98.30 mmol, 8.14 ml | O1C(=CC=C1)C=O | C5H4O2
reactant | acetic acid | 235.92 mmol, 13.57 ml | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 117.96 mmol, 25 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
product | 3-[(Furan-2-ylmethyl)-amino]-phthalic acid dimethyl ester | 12.42 g | COC(C=1C(C(=O)OC)=C(C=CC1)NCC=1OC=CC1)=O | C15H15NO5
